US08754229B2
To a solution of methyl 4-amino-3-methoxy-6-vinylpicolinate (0.263 g, 1.263 mmol) in DCE (6.32 ml) was added di-tert-butyl dicarbonate (0.827 g, 3.79 mmol) and N,N-dimethylpyridin-4-amine (0.023 g, 0.189 mmol). The reaction mixture was stirred at room temperature overnight. The mixture was adsorbed onto celite and purified by flash column chromatography (ISCO, SiO2, 24 g, hexane/EtOAc 100:0 to 0:100 gradient) to afford methyl 4-[bis(tert-butoxycarbonyl)amino]-6-ethenyl-3-methoxypyridine-2-carboxylate (382 mg, 0.935 mmol, 74.0% yield) as a colorless oil. ESIMS m/z 409 ([M+H]+); 1H NMR (400 MHz, CDCl3) δ 7.30 (s, 1H), 6.81 (dd, J=17.5, 10.9 Hz, 1H), 6.08 (d, J=17.4 Hz, 1H), 5.51 (d, J=11.1 Hz, 1H), 3.99 (s, 3H), 3.86 (s, 3H), 1.42 (s, 18H).

reactant | methyl 4-amino-3-methoxy-6-vinylpicolinate | 1.263 mmol, 0.263 g | NC1=C(C(=NC(=C1)C=C)C(=O)OC)OC | C10H12N2O3
reactant | di-tert-butyl dicarbonate | 3.79 mmol, 0.827 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCE | 6.32 ml | ClCCCl | C2H4Cl2
catalyst | N,N-dimethylpyridin-4-amine | 0.189 mmol, 0.023 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 4-[bis(tert-butoxycarbonyl)amino]-6-ethenyl-3-methoxypyridine-2-carboxylate | 0.935 mmol, 382 mg, 74.0% yield | C(C)(C)(C)OC(=O)N(C1=C(C(=NC(=C1)C=C)C(=O)OC)OC)C(=O)OC(C)(C)C | C20H28N2O7
